* Z:\home\arthur\Desktop\UFMG\Lab_Eletronica\source_project\Draft2.asc
R1 N003 N002 50
R2 Vout+ N006 4.5k
R3 N006 N004 18k
R4 0 N004 10k
R5 Vout+ 0 15
Q1 +Vcc N003 Vout+ 0 FZT849
XU1 +Vref N004 +Vcc -5v N002 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R6 +Vcc N005 4k
D1 0 N005 1N750
R7 N005 +Vref 1
R8 +Vref 0 10k
V1 N001 0 SINE(0 25.45 60)
V2 0 N007 SINE(0 25.45 60)
D2 N001 +Vcc D
D3 -Vcc N001 D
D4 N007 +Vcc D
D5 -Vcc N007 D
C1 +Vcc 0 4000µ
C2 -Vcc 0 4000µ
V3 0 -5v 5
V4 +5v 0 5
V5 +2.1v 0 2.1
R9 -Vcc N011 4k
D6 N011 0 1N750
R10 N011 -Vref 1
R11 -Vref 0 10k
R12 N009 N008 50
R13 Vout- N012 4.5k
R14 N012 N010 18k
R15 0 N010 10k
R16 Vout- 0 15
XU2 -Vref N010 +5v -Vcc N008 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
Q2 -Vcc N009 Vout- 0 2N2907
.model D D
.lib C:\Program Files (x86)\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Program Files (x86)\lib\cmp\standard.bjt
* Estágio de ganho (+)
* Estágio retificador com filtro capacitivo
.tran 0.1s
* Fontes auxiliares
* Estágio regulador de tensão (-)
* Estágio de ganho (-)
.lib UniversalOpamps2.sub
.backanno
.end
