* Z:\media\hdd\Arquivos\Documents\Estudo\UFMG\2021-2\Circuitos Eletrônicos Analógicos\Trabalho Projeto Ampop\spice_projects\AmpOp\amplificador.asc
Q1 N001 +Vid N008 0 BC547C
Q9 N001 N001 +Vcc 0 BC557C
V4 +Vcc 0 15
V5 0 -Vee 15
Q3 N001 N008 N011 0 BC547C
Q2 N005 -Vid N009 0 BC547C
Q4 N005 N009 N011 0 BC547C
Q6 N011 N014 N018 0 BC547C
Q8 N018 N017 -Vee 0 BC547C
Q5 N014 N014 N017 0 BC547C
Q7 N017 N017 -Vee 0 BC547C
R1 0 N014 5.5k
Q10 N005 N001 +Vcc 0 BC557C
Q11 Vout1 N005 N002 0 BC557C
C1 N005 Vout1 0.1n
R2 +Vcc N002 50
V1 +Vid 0 SINE(0 0.001 500) AC 0.1 0
V2 0 -Vid SINE(0 0.001 500) AC 0.1 0
R3 Vout1 N004 2k
R4 N004 N007 6.4k
Q12 N007 N004 Vout1 0 BC557C
Q13 N010 N010 N015 0 BC547C
Q14 N007 N010 N016 0 BC547C
Q15 N015 N015 -Vee 0 BC547C
Q16 N016 N015 -Vee 0 BC547C
R5 0 N010 11.248k
Q17 +Vcc Vout1 N003 0 BC547C
Q18 +Vcc N003 N006 0 2N4401
R6 N006 Vout 1.52
R7 Vout N012 1.32
Q19 -Vee N013 N012 0 2N4403
Q20 -Vee N007 N013 0 BC557C
Q21 Vout1 N006 Vout 0 2N5210
Q22 N007 N012 Vout 0 2N5087
Q23 N019 0 N026 0 BC547C
Q24 N019 N019 +Vcc 0 BC557C
Q25 N019 N026 N029 0 BC547C
Q26 N023 0 N027 0 BC547C
Q27 N023 N027 N029 0 BC547C
Q28 N029 N032 N036 0 BC547C
Q29 N036 N035 -Vee 0 BC547C
Q30 N032 N032 N035 0 BC547C
Q31 N035 N035 -Vee 0 BC547C
R8 0 N032 5.5k
Q32 N023 N019 +Vcc 0 BC557C
Q33 Vout1-2 N023 N020 0 BC557C
C2 N023 Vout1-2 0.1n
R9 +Vcc N020 50
R10 Vout1-2 N022 2k
R11 N022 N025 6.5
Q34 N025 N022 Vout1-2 0 BC557C
Q35 N028 N028 N033 0 BC547C
Q36 N025 N028 N034 0 BC547C
Q37 N033 N033 -Vee 0 BC547C
Q38 N034 N033 -Vee 0 BC547C
R12 0 N028 12k
Q39 +Vcc Vout1-2 N021 0 BC547C
Q40 +Vcc N021 N024 0 2N4401
R13 N024 Vout2 1.62
R14 Vout2 N030 1.12
Q41 -Vee N031 N030 0 2N4403
Q42 -Vee N025 N031 0 BC557C
Q43 Vout1-2 N024 Vout2 0 2N5210
Q44 N025 N030 Vout2 0 2N5087
RL Vout 0 20
.model NPN NPN
.model PNP PNP
.lib C:\users\leandro\Meus Documentos\LTspiceXVII\lib\cmp\standard.bjt
;tran 0 1 0
;ac dec 51 0.01 100meg
.dc V4 0 30 0.01 V5 0 30 0.01
.backanno
.end
